US05767333
The preparation of 2,2'-dimethyl-1,1'-binaphthyl by a chemical route is carried out by reductive coupling of 1-bromo-2-methylnaphthalene which is obtained by bromination of 2-methylnaphthalene. For this purpose, 1-bromo-2-methylnaphthalene is converted into the corresponding Grignard compound and subsequently coupled with 1-bromo-2-methylnaphthalene using a nickel-containing catalyst, for example Ni(PPh3)2Cl2. The yield based on the 2-methyl-naphthalene used is, calculated over both steps, from about 50 to 60%. In addition, the process gives, as production waste, a mixture of magnesium bromide and nickel salts which have to be separated and worked up (S. Miyano, Bull. Chem. Soc. Jpn., 59, (6), 2044 to 2046, 1986).

reactant | 2,2'-dimethyl-1,1'-binaphthyl | CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)C | C22H18
reactant | 1-bromo-2-methylnaphthalene | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
product | 2-methylnaphthalene | CC1=CC2=CC=CC=C2C=C1 | C11H10
